US05629431
Bis(tert.-butoxycarbonyI-L-phenylalanyl-aminomethyl)-Phosphinic acid
Synthesis in analogy to Example 1 from bis(aminomethyl)phosphinic acid hydrochloride and tert.-butoxycarbonyI-L-phenylalanine

reactant | bis(aminomethyl)phosphinic acid hydrochloride | Cl.NCP(O)(=O)CN
reactant | tert.-butoxycarbonyI-L-phenylalanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | Bis(tert.-butoxycarbonyI-L-phenylalanyl-aminomethyl)-Phosphinic acid | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(N)P(O)(=O)C(C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)N | C30H43N4O8P
